US04983607
150 g (0.57 mol) of 3-acetyloxy-5-oxo-5-phenylamino-2-pentenoic acid are poured in small portions while stirring into 500 ml of 95-97% sulphuric acid, and the reaction medium is then heated to 100° C. for 2 h. After being cooled, this solution is poured into a mixture of 1 kg of ice and 500 ml of water while stirring. The solid thereby obtained is drained. It is washed with 3 times 100 ml of water and dried for 8 h at 60° C. 60.5 g (52%) of 2-oxo-1,2-dihydro-4-quinolineacetic acid, melting point 213°-215° C., are obtained.

reactant | 3-acetyloxy-5-oxo-5-phenylamino-2-pentenoic acid | 0.57 mol, 150 g | C(C)(=O)OC(=CC(=O)O)CC(NC1=CC=CC=C1)=O | C13H13NO5
reactant | sulphuric acid | 500 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 500 ml | O | H2O
product | 2-oxo-1,2-dihydro-4-quinolineacetic acid | 60.5 g, 52% | O=C1NC2=CC=CC=C2C(=C1)CC(=O)O | C11H9NO3
